US07851157B1
2′-Deoxyadenosine monohydrate (4 g, 15 mmol) was suspended in 75 mL of a sodium acetate buffer solution (pH 4.3). To this suspension, 75 mL of a sodium acetate buffer solution (pH 4.3) containing bromine (0.92 mL, 18 mmol) was dropwise added. The resulting mixture was stirred at room temperature for 2 hours, and then 50 mL of a 5% sodium thiosulfate aqueous solution and then 50 mL of a 2 M sodium hydroxide aqueous solution were added thereto. The given precipitate was collected by filtration and sufficiently washed with water and ethanol to give 8-bromo-2′-deoxyadenosine (4.2 g, yield: 83%).

reactant | 2′-Deoxyadenosine monohydrate | 15 mmol, 4 g | O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12
reactant | bromine | 18 mmol, 0.92 mL | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | sodium acetate | 75 mL, pH 4.3 | C(C)(=O)[O-].[Na+]
solvent | sodium acetate | 75 mL, pH 4.3 | C(C)(=O)[O-].[Na+]
product | 8-bromo-2′-deoxyadenosine | 4.2 g, yield: 83% | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O3
